US04939141
Synthesis of 8-[3-(p-pentylphenyl)propionyl]amino-2-(5-tetrazolyl)-1,4-benzodioxane
8-(p-pentylcinnamoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane (216 mg; synthesized in example 2(1)) and palladium-carbon (50 mg; content 5) were suspended in a mixed solvent (6 ml) of ethanol, ethanol and ethyl acetate (1:1:1). In an atmosphere of hydrogen, the suspension was stirred for 90 min at room temperature. After stirring, the suspension was filtered through celite. The filtrate was condenced under reduced pressure. Thre residue was purified by column chromatography on silica gel (methylene chloride:methanol=19:1) to give the title compound (202 mg) having the following physical data:

reactant | 8-(p-pentylcinnamoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane | 216 mg | C(CCCC)C1=CC=C(C=CC(=O)NC2=CC=CC3=C2OC(CO3)C3=NN=NN3)C=C1 | C23H25N5O3
reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[3-(p-pentylphenyl)propionyl]amino-2-(5-tetrazolyl)-1,4-benzodioxane | 202 mg | C(CCCC)C1=CC=C(C=C1)CCC(=O)NC1=CC=CC2=C1OC(CO2)C2=NN=NN2 | C23H27N5O3
